US05741926
2-((2-Bromoacetyl)amino)-5-hydroxybenzoic Acid
To a solution of 2-amino-5-hydroxybenzoic acid (6.1 g, 0.04 mol) in anhydrous DMF (20 mL) and anhydrous dioxane (20 mL) was added, dropwise, bromoacetyl bromide (8.0 g, 3.5 mL, 100 mol %) while keeping the internal temperature between 0° C. and 5° C. After the addition was completed (~20 min), the ice-bath was removed and the mixture was stirred for 20 h at rt. The reaction mixture was cooled in an ice-bath, water was added (100 mL), and then the mixture was poured into ice-water. The light precipitate which formed was filtered and then dried in a vacuum oven for 20 h at 40°-45° C., giving 7.8 g (72%) of the title compound: mp 213°-215.3° C.; 1H NMR (DMSO-d6) δ13.56 (bs, 1H, OH), 11.19 (s, 1H, NH), 9.68 (s, 1H, OH), 8.19 (d, 1H, J=8.8), 7.36 (d, 1H, J=3.2), 7.01 (dd, 1H, J=3.2, J=9.2), 4.19 (s, 2H); 13C NMR (DMSO-d6) δ168.88, 164.32, 153.08, 131.69, 122.21, 120.79, 119.00, 116.60, 30.66; MS (EI, m/z) 273 (M+), 275 (M+2+). HRMS (EI) calcd for C9H8NO4Br 272.9637, found 272.9634.

reactant | 2-amino-5-hydroxybenzoic acid | 0.04 mol, 6.1 g | NC1=C(C(=O)O)C=C(C=C1)O | C7H7NO3
reactant | bromoacetyl bromide | 3.5 mL, 8.0 g | BrCC(=O)Br | C2H2Br2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-((2-Bromoacetyl)amino)-5-hydroxybenzoic Acid | 7.8 g, 72% | BrCC(=O)NC1=C(C(=O)O)C=C(C=C1)O | C9H8BrNO4
